US06326375B1
(3) Preparation of 6-ethylspiro[isobenzofuran-1(3H),4′-piperidine]-3-one hydrochloride
1′-benzyl-6-ethylspiro[isobenzofuran-1(3H),4′-piperidine]-3-one hydrochloride (400 mg) was dissolved in methanol (10 mL) and 10% palladium carbon was added. The mixture was stirred under a hydrogen atmosphere for 1.5 hours. After the palladium carbon was removed by filtration, the filtrate was concentrated to give a residue, which was subjected to crystallization with methanol-ethyl ether to give the subject compound (222 mg).

reactant | 1′-benzyl-6-ethylspiro[isobenzofuran-1(3H),4′-piperidine]-3-one hydrochloride | 400 mg | Cl.C(C1=CC=CC=C1)N1CCC2(CC1)OC(C1=CC=C(C=C12)CC)=O
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium carbon | [C].[Pd]
product | 6-ethylspiro[isobenzofuran-1(3H),4′-piperidine]-3-one hydrochloride | 222 mg | Cl.C(C)C1=CC=C2C(OC3(CCNCC3)C2=C1)=O | InChI=1S/C14H17NO2.ClH/c1-2-10-3-4-11-12(9-10)14(17-13(11)16)5-7-15-8-6-14;/h3-4,9,15H,2,5-8H2,1H3;1H
